US07189741B2
This compound was prepared following the procedure described in example 13 (part B) at room temperature for 15 hours, starting with 0.3 g (1.0 mmol) of 4-(5-methoxy-1H-indol-3-yl)-piperidine-1-carboxylic acid ethyl ester and 2.11 mL (1.3 mmol) of a freshly prepared 0.61 M solution of 2-bromomethylfuran in ethyl ether. After standard work-up, 0.38 g (100% of yield) of 4-(1-furan-2-ylmethyl-5-methoxy-1H-indol-3-yl)-piperidine-1-carboxylic acid ethyl ester were obtained.

reactant | 4-(5-methoxy-1H-indol-3-yl)-piperidine-1-carboxylic acid ethyl ester | 1.0 mmol, 0.3 g | C(C)OC(=O)N1CCC(CC1)C1=CNC2=CC=C(C=C12)OC | C17H22N2O3
reactant | 2-bromomethylfuran | BrCC=1OC=CC1 | C5H5BrO
solvent | ethyl ether | C(C)OCC | C4H10O
product | 4-(1-furan-2-ylmethyl-5-methoxy-1H-indol-3-yl)-piperidine-1-carboxylic acid ethyl ester | 0.38 g, 100% | C(C)OC(=O)N1CCC(CC1)C1=CN(C2=CC=C(C=C12)OC)CC=1OC=CC1 | C22H26N2O4
